US06184379B2
N-ethyl-7-hydroxy-2,2,4-trimethyl-1,2-dihydroquinoline
200 g N-ethyl-7-hydroxy-2,2,4-trimethyl-1,2-dihydroquinoline hydrobromide was suspended in a mixture of 1 l water and 500 ml chloroform. 20% sodium acetate solution was added to this suspension until the pH value reached ca. 5. The organic phase was washed with water, dried over sodium sulfate and evaporated to dryness in a rotary evaporator. A light-brown oil was obtained in this manner. Since the released base decomposes very rapidly, only the required amount of base for the further process was released from the hydrobromide.

reactant | N-ethyl-7-hydroxy-2,2,4-trimethyl-1,2-dihydroquinoline hydrobromide | 200 g | Br.C(C)N1C(C=C(C2=CC=C(C=C12)O)C)(C)C
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | hydrobromide | Br | BrH
solvent | water | 1 l | O | H2O
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | N-ethyl-7-hydroxy-2,2,4-trimethyl-1,2-dihydroquinoline | C(C)N1C(C=C(C2=CC=C(C=C12)O)C)(C)C | C14H19NO
